US04882333
A solution of 0.5 g. of dimethyl N-[6-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d] -pyrimidin-6-yl)hexanoyl]-L-glutamate in 75 mL. of 1.0 N aqueous sodium hydroxide is stirred at room temperature for 120 hours and the pH then adjusted to 7.0 through the careful addition of 5.0 N hydrochloric acid. Water was removed under reduced pressure and the concentrated solution then cooled in an ice-bath. The solid which formed was collected by filtration and dried at 80° C. to yield N-[6-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido-[2,3-d]pyrimidin-6-yl)hexanoyl]-L-glutamic acid, m.p. foaming at 135° C., melting at 180°-195° C. NMR (DMSO-d6 300 MHz) delta: 9.80 (s, br, 1H), 7.90 (s, J=8 Hz, 1H), 6.20 (s, 1H), 5.95 (s, 2H), 4.08 (m, 1H), 3.10 (m, 1H), 2.63 (t, J=10 Hz, 1H), 2.40 (m, 1H), 2.20 (t, J=8 Hz, 2H), 2.05 (t, J=8 Hz, 2H), 1.84 (m, 1H), 1.70 (m, 2H), 1.55 (m, 3H), 1.20 (m, 6H).

reactant | dimethyl N-[6-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d] -pyrimidin-6-yl)hexanoyl]-L-glutamate | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)NCC(C2)CCCCCC(=O)N[C@@H](CCC(=O)OC)C(=O)OC)O | C25H39N5O7
reactant | sodium hydroxide | 1.0 N | [OH-].[Na+]
reactant | hydrochloric acid | 5.0 N | Cl | ClH
product | N-[6-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido-[2,3-d]pyrimidin-6-yl)hexanoyl]-L-glutamic acid | NC=1N=C(C2=C(N1)NCC(C2)CCCCCC(=O)N[C@@H](CCC(=O)O)C(=O)O)O | C18H27N5O6
